US07314889B2
2-(4-nitrophenoxy)ethlbromide
A mixture of 4-nitrophenol (1.0 g, 1.0 eq., 7.19 mmol), 1,2-dibromoethane (3.85 mL, 6.0 eq, 43.1 mmol), and anhydrous K2CO3 (3.0 g, 3 eq, 21.5 mmol) in dry acetone (36 mL) was stirred at RT for 16 h. The reaction mixture was filtered, and the filtrate was condensed. Condensed mass was again dissolved in ethyl acetate and washed with aq. sodium bicarbonate solution. Organic layer was dried (Na2SO4), condensed, and the residue was chromatographed using ethyl acetate and hexanes to obtain the title compound as solid (540 mg, 32%).

reactant | 4-nitrophenol | 7.19 mmol, 1.0 g, 1.0 eq. | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,2-dibromoethane | 43.1 mmol, 3.85 mL, 6.0 eq | BrCCBr | C2H4Br2
reactant | K2CO3 | 21.5 mmol, 3.0 g, 3 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 36 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-nitrophenoxy)ethlbromide | 540 mg, 32% | [N+](=O)([O-])C1=CC=C(OCCBr)C=C1 | C8H8BrNO3
